Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Abilify / Reglan / trazodone
 
Attending: ___.
 
Chief Complaint:
Eye pain
 
Major Surgical or Invasive Procedure:
Eye surgery to assess injury
 
History of Present Illness:
___ y/o woman with corneal transplant OS for keratoconus (caused
changes in vision and plan) 2 weeks ago, discharged home.
She was accidently hit by baby in the eye, wound dehisced, and 
she came to ___ ED
where she was found to have very elevated BP, UTI, and then seen
by ophthalmology who took her to the OR for assessment.  They 
were unable to visualize her lens and are concerned it was 
displaced.  She was admitted for observation overnight, as it is 
"vital" that she have a repeat ophthalmologic examination 
tomorrow.

She denies any pain in the eye or n/v/ha/sob/cp/arthralgia/rash. 
 She would like to eat.  + polyuria and burning; was diagnosed 
with UTI at OSH earlier this week, took one day of abx before 
arrival, still symptomatic
 
Past Medical History:
1.  Bipolar d/o 
2.  Hypertension
3.  Shoulder bursitis

 
Social History:
___
Family History:
No history of visual problems
 
Physical Exam:
AF ___
Gen:  WD/WN, NAD in PACU, little spontaneous speech but will 
answer questions
+ patch on left eye
Lung:  CTA B
CV:  RRR
ABD: Nabs, soft
Ext:  Nt/nd
Psych: somewhat constricted affect

 
Pertinent Results:
___ 03:10AM BLOOD WBC-12.0* RBC-4.51 Hgb-13.5 Hct-40.9 
MCV-91 MCH-29.9 MCHC-33.0 RDW-13.2 RDWSD-44.0 Plt ___
___ 03:10AM BLOOD Glucose-125* UreaN-10 Creat-0.6 Na-142 
K-3.7 Cl-106 HCO3-23 AnGap-17

___ 02:00AM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 02:00AM URINE RBC-34* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-2
___ 02:00AM URINE Color-Straw Appear-Hazy Sp ___
HCG negative
Urine culture pending

 
Brief Hospital Course:
___ y/o woman admitted for exploratory surgery after eye injury 
(hit by baby accidently) 2 weeks after having corrective surgery 
for keratoconus.  Today, ophthalmologist unable to assess 
patient's lens, consistent with lens displacement

1.  Optho:    Operative report notes that patient found to have 
"Ruptured globe, with penetrating keratoplasty and wound 
dehiscence. 2. Loss of intraocular lens. 3. Anterior vitreous 
loss." Opthalmologist notes  "1. Repair of dehisced donor 
corneal button wound. 2. Anterior vitrectomy. were performed".  
She will resume vigamox eye drops and prednisolone eye drops.  
She tolerated She must have f/u with optho on ___ ___.  She may be scheduled for lens transplant and this will 
be determined by ophthalmology.
2.  Hypertension:  Pressures elevated in PACU.  Pressures 
improved after resuming hctz and lisinopril.  
3.  Bipolar d/o:  Appearing relatively euthymic; continued 
lithium, bupropion, Zoloft, gabapentin, clonazepam
4.  UTI:  She finished one day of antibiotics at home, and 
received 2 days of IV antibiotics, and has thus completed 
adequate treatment for uncomplicated UTI.  Her polyuria, dysuria 
resolved in hospital.  Ucx till pending at time of discharge.  
5.  H/o shoulder bursitis:  I removed sutures, continued home 
Percocet for pain control.

Confirmed medications with ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. ClonazePAM 0.5 mg PO BID 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. Gabapentin 300 mg PO BID 
6. Hydrochlorothiazide 12.5 mg PO DAILY 
7. Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 
8. Lisinopril 40 mg PO DAILY 
9. Lithium Carbonate CR (Eskalith) 900 mg PO DAILY 
10. Meclizine 25 mg PO Q8H:PRN dizziness 
11. Omeprazole 40 mg PO DAILY 
12. Ondansetron 4 mg PO Q8H:PRN nausea 
13. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 
14. Sertraline 100 mg PO DAILY 
15. Sumatriptan Succinate 50 mg PO X2 PRN headache 
16. melatonin 5 mg oral QHS 
17. Loratadine 10 mg PO DAILY 
18. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath  
3.  BuPROPion (Sustained Release) 150 mg PO QAM  
4.  ClonazePAM 0.5 mg PO BID  
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
6.  Gabapentin 300 mg PO BID  
7.  Hydrochlorothiazide 12.5 mg PO DAILY  
8.  Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate  
9.  Lisinopril 40 mg PO DAILY  
10.  Lithium Carbonate CR (Eskalith) 900 mg PO DAILY 
Eskalith CR  
11.  Loratadine 10 mg PO DAILY  
12.  Meclizine 25 mg PO Q8H:PRN dizziness  
13.  melatonin 5 mg oral QHS  
14.  Omeprazole 40 mg PO DAILY  
15.  Ondansetron 4 mg PO Q8H:PRN nausea  
16.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate  
17.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID  
18.  Sertraline 100 mg PO DAILY  
19.  Sumatriptan Succinate 50 mg PO X2 PRN headache  
20.  Vigamox (moxifloxacin) 0.5 % ophthalmic Q6H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lens displacement
Hypertension
Bipolar D/o

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
You were admitted after an eye injury and were taken to the 
operating room by the opthalmologists.   They recommend that you 
continue to use your vigamox and prednisolone acetate eyedrops 
every day and that you call Dr ___ tomorrow at ___ to make an appointment so that you can be seen 
tomorrow.  IT IS VERY IMPORTANT THAT YOU BE SEEN TOMORROW SO 
PLEASE CALL THEM.
You finished a course of antibiotics for a urinary tract 
infection and do not need to continue antibiotics.

 
Followup Instructions:
___